US06414149B1
Step B: 7-Benzyl-4-chloro-2-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine
7-Benzyl-2-methyl-5,6,7,8-tetrahydro-3H-pyrido[3,4-d]pyrimidin-4-one (prepared according to the method of Example 86, Step A, 17.1 g, 67.0 mmol) was suspended in phosphorus oxychloride (66 mL, 335 mmol). This mixture was stirred at reflux for 1 h, cooled to room temperature, evaporated, then chased with toluene. The residue was carefully diluted with ice/water/chloroform and the layers were separated. The aqueous phase was extracted with chloroform (3×) and the combined organic extracts were washed with saturated aqueous sodium bicarbonate (1×) and water (1×), dried over sodium sulfate, filtered, and evaporated to give the title compound of Example 86, Step B as a brown oil that was used without purification in the next step. 1H NMR (CDCl3, 250 MHz) δ7.36-7.23 (c, 5H), 3.73 (s, 2H), 3.63 (s, 2H), 2.63 (app s, 4H), 2.36 (s, 3H); MS (APCI) 274, 276 (MH+).

reactant | 7-Benzyl-2-methyl-5,6,7,8-tetrahydro-3H-pyrido[3,4-d]pyrimidin-4-one | C(C1=CC=CC=C1)N1CC=2N=C(NC(C2CC1)=O)C | C15H17N3O
reactant | phosphorus oxychloride | 335 mmol, 66 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-Benzyl-4-chloro-2-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)Cl)C | C15H16ClN3
